US04999436
Potassium tert-butoxide (2.11 g, 18.8 mmol) was dissolved in 30 mL of THF at 25° C. A solution of crude methyl Z-3-(4'-methoxybenzylthio)-3-phenyl-2-propenoate (2.00 g, 6.36 mmol) in 10 mL of THF was added over 5-10 minutes. An additional 2×2 mL of THF was used to rinse the starting material into the reaction. After stirring an additional 1 hour at 25° C., the reaction was quenched with 1.5 mL of glacial acetic acid and poured into 100 mL of ethyl acetate. After washing successively with 50 mL of saturated aqueous sodium chloride, 15 mL of 2N ag. hydrochloric acid, and 50 mL of saturated ag. sodium chloride, the solution was dried over sodium sulfate, decanted, and evaporated. The residue was dissolved in dichloromethane and evaporated onto 10 g of silica gel. Flash column chromatography on 60 g of silica gel eluted with 1 L of 10% ethyl acete in hexane followed by 500 mL of 12% ethyl acetate in hexane gave 3-hydroxy-2-(4'-methoxyphenyl)-5-phenylthiophene as 0.35 g of off-white crystals.

reactant | Potassium tert-butoxide | 18.8 mmol, 2.11 g | CC(C)([O-])C.[K+]
reactant | methyl Z-3-(4'-methoxybenzylthio)-3-phenyl-2-propenoate | 6.36 mmol, 2.00 g | COC1=CC=C(CS\C(=C/C(=O)OC)\C2=CC=CC=C2)C=C1 | C18H18O3S
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-hydroxy-2-(4'-methoxyphenyl)-5-phenylthiophene | OC1=C(SC(=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OC | C17H14O2S
